US03987042
15.9 g of 2-ethoxycarbonylmethyl-quinuclidine were reduced with lithium aluminium hydride in the presence of ether under reflux to give 12.3 g of 2-hydroxyethylquinuclidine, m.p. 62°-64° C.

reactant | 2-ethoxycarbonylmethyl-quinuclidine | 15.9 g | C(C)OC(=O)CC1N2CCC(C1)CC2 | C11H19NO2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | ether | CCOCC | C4H10O
product | 2-hydroxyethylquinuclidine | 12.3 g | OCCC1N2CCC(C1)CC2 | C9H17NO
